US07812165B2
N′-Hydroxy-2-phenoxyethanimidamide.
A mixture of 1 g of phenoxyacetonitrile, 2.4 g of K2CO3 and 1.2 g of hydroxylamine hydrochloride in 60 ml of EtOH and 10 ml of water is heated at reflux for 3 hours. The reaction mixture is concentrated under vacuum and the residue is taken up in water and extracted with AcOEt. The organic phase is extracted with 1N HCl solution, the aqueous phase is alkalified by adding 1N NaOH solution, extracted with AcOEt and dried over MgSO4, and the solvent is evaporated under vacuum. This gives 0.9 g of the expected compound in the form of a colourless oil which crystallizes.

reactant | phenoxyacetonitrile | 1 g | O(C1=CC=CC=C1)CC#N | C8H7NO
reactant | K2CO3 | 2.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | hydroxylamine hydrochloride | 1.2 g | Cl.NO
solvent | EtOH | 60 ml | CCO | C2H6O
solvent | water | 10 ml | O | H2O
product | N′-Hydroxy-2-phenoxyethanimidamide | ON=C(COC1=CC=CC=C1)N | C8H10N2O2
